US08431569B2
Step 2. 7-(2-Aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-8-hydroxy-5H-pyrido[4,3-b]indole-4-carboxamide
To a stirred solution of 7-(2-aminopyrimidin-5-yl)-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide (218 mg, 0.38 mmol) in AcOH (7.7 mL) was added hydrogen peroxide (30%, 0.20 mL, 1.9 mmol) at 0° C. The reaction was left to stir at room temperature for 3 h, diluted with EtOAc, and washed with water. The organic layer was dried, concentrated, and purified by flash chromatography to afford the title compound. 1H NMR (500 MHz, CD3SOCD3) δ 11.38 (s, 1H); 9.25 (s, 1H); 8.42 (s, 2H); 7.97 (s, 1H); 7.90 (br s, 1H); 7.75 (s, 1H); 7.60 (s, 1H); 7.22 (br s, 1H); 6.63 (m, 2H); 4.86 (m, 1H); 1.45 (m, 1H); 0.72 (m, 1H); 0.60 (m, 1H); 0.53 (m, 1H); 0.36 (m, 1H). LRMS (APCI) calc'd for (C21H18F3N7O2) [M+H]+, 458.1. found 458.1.

reactant | 7-(2-aminopyrimidin-5-yl)-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-8-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5H-pyrido[4,3-b]indole-4-carboxamide | 0.38 mmol, 218 mg | NC1=NC=C(C=N1)C=1C(=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N)B3OC(C(O3)(C)C)(C)C | C27H29BF3N7O3
reactant | hydrogen peroxide | 1.9 mmol, 0.20 mL | OO | H2O2
solvent | AcOH | 7.7 mL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 7-(2-Aminopyrimidin-5-yl)-1-{[(1R)-1-cyclopropyl-2,2,2-trifluoroethyl]amino}-8-hydroxy-5H-pyrido[4,3-b]indole-4-carboxamide | NC1=NC=C(C=N1)C=1C(=CC=2C3=C(NC2C1)C(=CN=C3N[C@@H](C(F)(F)F)C3CC3)C(=O)N)O | C21H18F3N7O2
